US06436923B1
B. 2-(4-Aminophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
A suspension of 6-methoxy-2-(4-nitrophenyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.70 g, 1.46 mmol) and SnCl2.H2O (1.35 g, 6.0 mmol) in 20 mL of THF/HOAc (1:1) and 3 mL of water was heated at 60° C. for 3 h. The reaction mixture was concentrated under reduced pressure and the resulting residue was quenched by the addition of saturated aqueous NaHCO3 (50 mL). The aqueous layer was extracted with EtOAc (3×50 mL) and the combined organic layer was dried over MgSO4 then concentrated. The crude product was purified by flash chromatography to provide the title compound (0.63 g, 95% yield). ES-MS, (m/z) 451 [M+H]+.

reactant | 6-methoxy-2-(4-nitrophenyl)-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 1.46 mmol, 0.70 g | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C30H28N2O4
reactant | SnCl2.H2O | 6.0 mmol, 1.35 g | Cl[Sn]Cl.O
solvent | THF HOAc | 20 mL | C1CCOC1.CC(=O)O
solvent | water | 3 mL | O | H2O
product | 2-(4-Aminophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.63 g, 95% yield | NC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H30N2O2
